US07498337B2
5-(4-cyclohexylphenyl)-1H-pyrrole-3-carbaldehyde
To a solution (35 mL) of [5-(4-cyclohexylphenyl)-1H-pyrrol-3-yl]methanol (1.00 g) in acetonitrile were added tetra-n-propylammonium perruthenate (115 mg), N-methylmorpholine N-oxide (0.60 g) and molecular sieves 4A powder (1.15 g) under ice-cooling. The mixture was stirred at room temperature for 1.5 hr, and the reaction mixture was suspended in ethyl acetate, and filtered through celite. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=2:1) to give the title compound as crystals (yield 0.53 g, 53%).

reactant | [5-(4-cyclohexylphenyl)-1H-pyrrol-3-yl]methanol | 35 mL, 1.00 g | C1(CCCCC1)C1=CC=C(C=C1)C1=CC(=CN1)CO | C17H21NO
reactant | N-methylmorpholine N-oxide | 0.60 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetra-n-propylammonium perruthenate | 115 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 5-(4-cyclohexylphenyl)-1H-pyrrole-3-carbaldehyde | yield 0.53 g, 53% | C1(CCCCC1)C1=CC=C(C=C1)C1=CC(=CN1)C=O | C17H19NO
